US05401772
To a solution of 4.5 g (16.5 mmol) of 3,5-dimethyl-4-(4'-methoxyphenoxy)nitrobenzene and 6.63 g (41.8 mmol) of p-fluorobenzoyl chloride in 100 ml methylene chloride is added 15.8 g (83.3 mmol) of titanium trichloride. The reaction mixture is stirred for 8 days at room temperature, then poured into ice water (300 ml) and stirred 2 hours. The organic layer is separated, washed with 5% aqueous sodium carbonate, water, dried (CaSO4) and evaporated. The residue is triturated with ether-petroleum ether and recrystallized from methanol to give (4-fluorophenyl)[2-methoxy-5-(2,6-dimethyl-4-nitrophenoxy)phenyl]-methanone, m.p. 167°-168°.

reactant | 3,5-dimethyl-4-(4'-methoxyphenoxy)nitrobenzene | 16.5 mmol, 4.5 g | CC=1C=C(C=C(C1OC1=CC=C(C=C1)OC)C)[N+](=O)[O-] | C15H15NO4
reactant | p-fluorobenzoyl chloride | 41.8 mmol, 6.63 g | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
catalyst | titanium trichloride | 83.3 mmol, 15.8 g | [Cl-].[Cl-].[Cl-].[Ti+3]
product | (4-fluorophenyl)[2-methoxy-5-(2,6-dimethyl-4-nitrophenoxy)phenyl]-methanone | FC1=CC=C(C=C1)C(=O)C1=C(C=CC(=C1)OC1=C(C=C(C=C1C)[N+](=O)[O-])C)OC | C22H18FNO5
